US05019574
The 2-hydroxy-3-morpholino-4-nitroquinoline (1.5 g, 0.0054 mol) was dissolved in a mixed solvent of methanol and tetrahydrofuran and subjected to catalytic reduction in the presence of 10g palladium-on-carbon. After completion of the reaction, the palladium-on-carbon catalyst was filtered off and the mother liquor was concentrated. Following purification by chromatography on an alumina column using chloroform as a developing solvent, recrystallization from chloroform was conducted to obtain 4-amino-2-hydroxy-3-morpholinoquinoline in an amount of 0.9 g (yield, 63%).

reactant | 2-hydroxy-3-morpholino-4-nitroquinoline | 0.0054 mol, 1.5 g | OC1=NC2=CC=CC=C2C(=C1N1CCOCC1)[N+](=O)[O-] | C13H13N3O4
solvent | methanol | CO | CH4O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | palladium-on-carbon | [Pd] | Pd
product | 4-amino-2-hydroxy-3-morpholinoquinoline | NC1=C(C(=NC2=CC=CC=C12)O)N1CCOCC1 | C13H15N3O2
